US07863443B2
Synthesis of tert-butyl 5-phenylpent-1-en-3-ylcarbamate
A Schlenk flask under argon was charged with {Ir(cod)Cl}2 (10 mg, 15 μmol, 3 mol %) and ligand (3,5-dioxa-4-phospha-cyclohepta[2,1-a; 3,4-a′]diphenyl-4-en)-dibenzo[b,f]azepine (12 mg, 30 μmol, 6 mol %). N,N-Dimethylformamide (2 mL) was added and the reaction mixture was stirred at 23° C. for 15 min. 5-Phenylpent-1-en-3-ol (81 mg, 0.50 mmol, 1 eq.) was added via syringe followed by the addition of solid sulfamic acid (49 mg, 0.50 mmol, 1 eq.). The resulting reaction mixture was heated to 50° C. Conversion was checked by disappearance of the starting material on TLC and/or by measuring 1H-NMR of an aliquot taken from the reaction mixture. After completion of the reaction (usually 3-4 hr), the reaction mixture was carefully concentrated and cooled to 23° C. The resulting brownish oil was redissolved in methylene chloride (3 mL), and Boc2O (202 mg, 1.00 mmol, 2 eq.) and a catalytic amount (ca. 10 mg) of the phase-transfer reagent n-Bu4NHSO4 were added at 0° C. At 0° C., the reaction mixture was treated with 0.5 M aqueous sodium hydroxide solution (3 mL) and warmed to 23° C. for 6 hr. Subsequently, the reaction mixture was partitioned between methylene chloride (10 mL) and water (10 mL). The aqueous layer was extracted with methylene chloride (3×15 mL). The combined organic layers were dried (sodium sulfate) and concentrated under reduced pressure. Purification of the residue by flash chromatography on silica gel using hexanes/ethyl acetate as an eluent afforded the title compound (93 mg, 0.36 mmol, yield 71%) as an off-white solid.

reactant | 5-Phenylpent-1-en-3-ol | 0.50 mmol, 81 mg, 1 eq. | C1(=CC=CC=C1)CCC(C=C)O | C11H14O
reactant | sulfamic acid | 0.50 mmol, 49 mg, 1 eq. | S(N)(O)(=O)=O | H3NO3S
reactant | Boc2O | 1.00 mmol, 202 mg, 2 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 0.5 M, 3 mL | [OH-].[Na+]
catalyst | n-Bu4NHSO4 | [N+](CCCC)(CCCC)(CCCC)CCCC.[O-]S(=O)(=O)O
solvent | N,N-Dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | tert-butyl 5-phenylpent-1-en-3-ylcarbamate | 0.36 mmol, 93 mg, yield 71% | C1(=CC=CC=C1)CCC(C=C)NC(OC(C)(C)C)=O | C16H23NO2
